US08877975B2
A solution of 1-(3-chlorophenyl)cyclohexane-carbaldehyde (119 mg, 0.53 mmol), methyl amine (291 μL, 0.58 mmol, 2.0 M in THF) and sodium cyanoborohydride (100 mg, 1.59 mmol) in 1:1 MeOH:Triethylorthoformate (4 mL) was shaken at RT overnight. The solution was poured into saturated aqueous K2CO3 and washed with EtOAc (2×20 mL). The combined organic washes were dried (Na2SO4), filtered and concentrated. The crude material was dissolved in Et2O and HCl (1.5 mL, 2.0 M in Et2O) was added. The reaction was concentrated and the HCl salt was recrystallized from CH3CN (4.5 mL) to give pure (1-(3-chlorophenyl)cyclohexyl)-N-methylmethanamine hydrochloride as colorless crystals HPLC Rt=8.25 min; 1H NMR (400 mHz, MeOH-d4) 7.43-7.28 (m, 4H) 3.12 (s, 2H), 2.54 (s, 3H), 2.19-2.16 (m, 2H), 1.67-1.30 (m, 8H); LC-MS 7.29 min, (M+1)− 238 @ 7.50 min.

reactant | 1-(3-chlorophenyl)cyclohexane-carbaldehyde | 0.53 mmol, 119 mg | ClC=1C=C(C=CC1)C1(CCCCC1)C=O | C13H15ClO
reactant | methyl amine | 0.58 mmol, 2.0 M, 291 μL | CN | CH5N
reactant | sodium cyanoborohydride | 1.59 mmol, 100 mg | C(#N)[BH3-].[Na+]
reactant | Triethylorthoformate | 4 mL | C(C)OC(OCC)OCC | C7H16O3
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | CO | CH4O
product | (1-(3-chlorophenyl)cyclohexyl)-N-methylmethanamine hydrochloride | Cl.ClC=1C=C(C=CC1)C1(CCCCC1)CNC | InChI=1S/C14H20ClN.ClH/c1-16-11-14(8-3-2-4-9-14)12-6-5-7-13(15)10-12;/h5-7,10,16H,2-4,8-9,11H2,1H3;1H
